US07091227B2
N-(6-Methylcyano-1,3-benzothiazol-2-yl)-N′-ethylurea
About 1 g of (2-amino-1,3-benzothiazol-6-yl)methyl cyanide is dissolved in about 10 ml dimethylformamide. About 0.8 ml of ethylisocyanate is added followed by about 1.4 ml triethylamine and the solution is heated to about 80° C. under good agitation. The solution is allowed to stir for about 4–6 hours then cooled to RT. The solvent is removed in vacuo and the solids are washed well with ether. The product is recrystallized from hot EtOAc. 1H NMR 1.09 (t, 3H), 3.1 (m, 2H), 4.1 (s, 2H), 6.72 (m, 1H), 7.32 (m, 1H), 7.61 (d, 1H), 7.85 (s, 1H), 10.7 (s, 1H); LC/MS 2.73 min, 261 (M+1), 259 (M−1).

reactant | (2-amino-1,3-benzothiazol-6-yl)methyl cyanide | 1 g | NC=1SC2=C(N1)C=CC(=C2)CC#N | C9H7N3S
reactant | ethylisocyanate | 0.8 ml | C(C)N=C=O | C3H5NO
reactant | triethylamine | about 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | about 10 ml | CN(C=O)C | C3H7NO
product | N-(6-Methylcyano-1,3-benzothiazol-2-yl)-N′-ethylurea | CC1=CC2=C(N=C(S2)NC(=O)NCC)C(=C1)C#N | C12H12N4OS
